US09063126B2
1-(diphenylmethylene)-2-phenylhydrazine
General procedure A was used to convert benzophenone hydrazone (3.42 g, 20 mmol; Aldrich) and 1-bromobenzene (3.14 g, 20 mmol; Aldrich) to the title compound: MS (DCI/NH3) m/z 273 (M+H)+.

reactant | benzophenone hydrazone | 20 mmol, 3.42 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 1-bromobenzene | 20 mmol, 3.14 g | BrC1=CC=CC=C1 | C6H5Br
product | 1-(diphenylmethylene)-2-phenylhydrazine | C1(=CC=CC=C1)C(=NNC1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2
